US04288244
Into a 200 ml four-necked flask, there were charged toluene (100 ml), α,α-dimethylbenzylamine (9 g) and pyridine (5.8 g), and α-chloro-tert-butylacetyl chloride (11.3 g) was dropwise added thereto while stirring at room temperature. Stirring was continued for 3 hours. The reaction mixture was washed with water to remove pyridine hydrochloride. After the toluene layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The obtained residue was recrystallized from ethanol to give 15.8 g of N-(α,α-dimethylbenzyl)-α-chloro-tert-butylacetamide. M.P., 159°-160° C.

reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | α,α-dimethylbenzylamine | 9 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | α-chloro-tert-butylacetyl chloride | 11.3 g | ClC(C(=O)Cl)C(C)(C)C | C6H10Cl2O
solvent | pyridine | 5.8 g | N1=CC=CC=C1 | C5H5N
product | N-(α,α-dimethylbenzyl)-α-chloro-tert-butylacetamide | 15.8 g | CC(C1=CC=CC=C1)(C)NC(C(Cl)C(C)(C)C)=O | C15H22ClNO
